US06313126B1
4-methoxy-2,6-dinitro-phenylamine
To a stirred solution of HNO3 (65 mL) was added 4-methoxy-2-nitro-phenylamine (15 g, 89.3 mmol). The reaction mixture was stirred at room temperature overnight. The dark red precipitate was filtered and washed with H2O (400 mL) affording 10.01 g (53%) of the title compound.

reactant | HNO3 | 65 mL | [N+](=O)(O)[O-] | HNO3
reactant | 4-methoxy-2-nitro-phenylamine | 89.3 mmol, 15 g | COC1=CC(=C(C=C1)N)[N+](=O)[O-] | C7H8N2O3
product | 4-methoxy-2,6-dinitro-phenylamine | 10.01 g, 53% | COC1=CC(=C(C(=C1)[N+](=O)[O-])N)[N+](=O)[O-] | C7H7N3O5
